US05026401
Preparation of 3-β-aminoethylamino-4-nitrophenol hydrochloride.
0.432 mol (75 g) of 3-chloro-4-nitrophenol is introduced into 282 ml of ethylenediamine and the reaction medium is then heated in a boiling water-bath for 13 hours. The cooled solution is then poured into 2.6 liters of iced water to which 1.09 liters of hydrochloric acid (d=1.18) has been added. After cooling at -10° C. for a few hours, the 3-β-aminoethylamino-4-nitrophenol hydrochloride crystallises. It is filtered off and washed with an ice-cold 2N solution of hydrochloric acid and then with ethanol. After recrystallisation from water, the dried product melts with decomposition at a temperature above 260° C.

reactant | 3-chloro-4-nitrophenol | 0.432 mol, 75 g | ClC=1C=C(C=CC1[N+](=O)[O-])O | C6H4ClNO3
reactant | ethylenediamine | 282 ml | C(CN)N | C2H8N2
reactant | hydrochloric acid | 1.09 liters | Cl | ClH
solvent | water | 2.6 liters | O | H2O
product | 3-β-aminoethylamino-4-nitrophenol hydrochloride | Cl.NCCNC=1C=C(C=CC1[N+](=O)[O-])O | InChI=1S/C8H11N3O3.ClH/c9-3-4-10-7-5-6(12)1-2-8(7)11(13)14;/h1-2,5,10,12H,3-4,9H2;1H
